US06548494B1
6-(4-Fluoro-phenyl)-1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-7-carbaldehyde oxime
Hydroxylamine hydrochloride (0.10 g, 0.325 mmol) was added to a solution of 6-(4-fluoro-phenyl)-1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-7-carbaldehyde (56.0 mg, 0.813 mmol) in pyridine (10 mL) and stirred at rt for 20 h. Upon consumption of the aldehyde as indicated by TLC, the solvent was removed in vacuo. The residue was taken up in 2N HCl and extracted with EtOAc several times. The combined organic extracts were dried over anhydrous MgSO4 and concentrated to give 97 mg (92%) of a pale-yellow solid: mp 277-279° C.; 1H NMR (DMSO-d6) δ 3.50 (br s, 2H), 4.12-4.14 (m, 2H), 7.30 (t, 1H, J=6.0 Hz), 7.43 (t, 2H, J=9.0 Hz), 7.57-7.62 (m, 2H), 7.89 (s, 1H), 7.94 (d, 1H, J=9.0 Hz), 8.33 (d, 1H, J=6.0 Hz), 8.41 (t, 1H, J=6.0 Hz), 10.80 (s, 1H). HRMS calcd. for C18H14N3O2F 323.1070 (M+), found 323.1066.

reactant | Hydroxylamine hydrochloride | 0.325 mmol, 0.10 g | Cl.NO
reactant | 6-(4-fluoro-phenyl)-1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-7-carbaldehyde | 0.813 mmol, 56.0 mg | FC1=CC=C(C=C1)C=1C(=C2C=CN3C2=C(C1)CNCC3=O)C=O | C18H13FN2O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 6-(4-Fluoro-phenyl)-1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-7-carbaldehyde oxime | 97 mg, 92% | FC1=CC=C(C=C1)C=1C(=C2C=CN3C2=C(C1)CNCC3=O)C=NO | C18H14FN3O2
